US08802704B2
Step 3: (Isopropyl-{4-[5-(2′-methyl-2-trifluoromethyl-biphenyl-4-yl)-[1,2,4]oxadiazol-3-yl]-benzyl}-amino)-acetic acid
Sodium cyanoborohydride (18 mg, 0.28 mmol) was added to a solution of 4-(5-(2′-methyl-2-(trifluoromethyl)biphenyl-4-yl)-1,2,4-oxadiazol-3-yl)benzaldehyde (0.25 mmol) and 2-aminoacetic acid (23 mg, 0.25 mmol) in a mixture of methanol (3 mL), DCM (3 mL) and acetic acid (38 μl). The mixture was stirred at room temperature overnight and was filtered through a frit under positive pressure. To the filtrate was added acetone (67 mg; 1.5 mmol) followed by addition of AcOH until the pH was in the range of 3-4 (240 mL). To the resulting mixture was added sodium cyanoborohydride (79 mg, 1.26 mmol), the mixture stirred for 16 hours, the solvent removed in vacuo and the residue purified by reverse phase HPLC to give a white solid as the title compound. 1H NMR (DMSO-d6, 400 MHz) δ 8.55-8.53 (1H, m), 8.53-8.48 (1H, m), 8.13-8.09 (2H, m), 7.71 (1H, d, J=7.9 Hz), 7.63 (2H, d, J=8.0 Hz), 7.37-7.34 (2H, m), 7.28-7.24 (1H, m), 7.15 (1H, d, J=7.5 Hz), 4.02 (2H, s), 3.24-3.22 (3H, m), 2.01 (3H, s), 1.11 (6H, d, J=6.5 Hz). LC/MS (Method A): 510 (M+H)+. HPLC (Method F) Rt=3.39 min (Purity: 99.1%).

reactant | Sodium cyanoborohydride | 0.28 mmol, 18 mg | C(#N)[BH3-].[Na+]
reactant | 4-(5-(2′-methyl-2-(trifluoromethyl)biphenyl-4-yl)-1,2,4-oxadiazol-3-yl)benzaldehyde | 0.25 mmol | CC1=C(C=CC=C1)C1=C(C=C(C=C1)C1=NC(=NO1)C1=CC=C(C=O)C=C1)C(F)(F)F | C23H15F3N2O2
reactant | 2-aminoacetic acid | 0.25 mmol, 23 mg | NCC(=O)O | C2H5NO2
reactant | acetone | 1.5 mmol, 67 mg | CC(=O)C | C3H6O
reactant | sodium cyanoborohydride | 1.26 mmol, 79 mg | C(#N)[BH3-].[Na+]
solvent | methanol | 3 mL | CO | CH4O
solvent | AcOH | CC(=O)O | C2H4O2
solvent | acetic acid | 38 μl | C(C)(=O)O | C2H4O2
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
product | (Isopropyl-{4-[5-(2′-methyl-2-trifluoromethyl-biphenyl-4-yl)-[1,2,4]oxadiazol-3-yl]-benzyl}-amino)-acetic acid | C(C)(C)N(CC1=CC=C(C=C1)C1=NOC(=N1)C1=CC(=C(C=C1)C1=C(C=CC=C1)C)C(F)(F)F)CC(=O)O | C28H26F3N3O3
